US07674789B2
33a) 1,1-dimethylethyl {1-[8-(2,6-difluorophenyl)-4-(5-{[(4-fluorophenyl)amino]carbonyl}-2-methylphenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]-4-piperidinyl}methylcarbamate
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide (40 mg, 0.073 mmol) in THF (3 mL) and DMF (0.5 mL) were added 1,1-dimethylethyl methyl(4-piperidinyl)carbamate (49 mg, 0.229 mmol) and N,N-diisopropylethylamine (0.1 mL, 0.574 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. Flash chromatography (mobile phase DCM/DCM [90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (12 mg, 25%). LC-MS m/z 702 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 0.073 mmol, 40 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)S(=O)C)=O | C27H20F3N5O3S
reactant | 1,1-dimethylethyl methyl(4-piperidinyl)carbamate | 0.229 mmol, 49 mg | CN(C(OC(C)(C)C)=O)C1CCNCC1 | C11H22N2O2
reactant | N,N-diisopropylethylamine | 0.574 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl {1-[8-(2,6-difluorophenyl)-4-(5-{[(4-fluorophenyl)amino]carbonyl}-2-methylphenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]-4-piperidinyl}methylcarbamate | 12 mg, 25% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C2=C(C=CC(=C2)C(=O)NC2=CC=C(C=C2)F)C)N2CCC(CC2)CNC(OC(C)(C)C)=O)=O | C37H38F3N7O4
